US05234917
To tetrahydrofuran (80 mL) is added n butyl lithium (15.5 mmol in hexane) and at -78° C. under argon is then added diisopropylamine (2.4 mL, 17.1 mmol). Methyl propanoate (15.3 mmol) is added neat over 5-6 minutes, and the mixture was stirred an additional 30 minutes at -78° C. A solution of 2-n-butyl-1-(2-chlorophenyl)methyl-4-(t-butyldimethylsilyloxy)methyl-1H-imidazol-5-carboxaldehyde (10.2 mmol) in tetrahydrofuran (10 mL) is added via a cannula, and the reaction mixture is stirred for 15 minutes. The reaction is partitioned between saturated ammonium chloride and ether, and the ether layer is washed with water, dried and concentrated to give crude product. This is chromatographed over silica gel with 20-50% of ethyl acetate in hexane to afford a mixture of isomeric β-hydroxyester products. A solution of this mixture (8.54 mmol) in methylene dichloride (100 mL) is treated with 4 dimethylaminopyridine (3 mmol) followed by acetic anhydride (84 mmol), and the solution is stirred at room temperature for 5 hours. The reaction is poured into water, stirred for 20 minutes and the product is extracted into ether. The ether extracts are washed with dilute hydrochloric acid solution, water, sodium bicarbonate solution and brine. The dried, concentrated mixture of β-acetoxyester products is used directly in the elimination reaction. To a solution of the β-acetoxyester product (4.5 mmol) in toluene (60 mL) is added of 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU) (10.9 mmol), and the mixture is heated at 90° C. for 24 hours. The reaction is concentrated to 10 mL, diluted with ether and flash filtered through a 14×3 cm plug of silica gel with ether rinses to afford the crude olefinic product. Chromatography over silica gel with an ethyl acetate in hexane gradient gives homogeneous methyl (E) 3-[2-n-butyl-1-{(2-chlorophenyl)methyl}-4-(t-butyldimethylsilyloxy)methyl-1H-imidazol-5-yl]-2-propenoate. The elimination of the acetate with DBU produces predominantly the trans (E) isomer.

reactant | butyl lithium | 15.5 mmol | C(CCC)[Li]
reactant | diisopropylamine | 17.1 mmol, 2.4 mL | C(C)(C)NC(C)C | C6H15N
reactant | Methyl propanoate | 15.3 mmol | C(CC)(=O)OC | C4H8O2
reactant | 2-n-butyl-1-(2-chlorophenyl)methyl-4-(t-butyldimethylsilyloxy)methyl-1H-imidazol-5-carboxaldehyde | 10.2 mmol | C(CCC)C=1N(C(=C(N1)CO[Si](C)(C)C(C)(C)C)C=O)CC1=C(C=CC=C1)Cl | C22H33ClN2O2Si
reactant | dimethylaminopyridine | 3 mmol | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | acetic anhydride | 84 mmol | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 10.9 mmol | N12CCCCCC2=NCCC1 | C9H16N2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | methylene dichloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | methyl (E) 3-[2-n-butyl-1-{(2-chlorophenyl)methyl}-4-(t-butyldimethylsilyloxy)methyl-1H-imidazol-5-yl]-2-propenoate | C(CCC)C=1N(C(=C(N1)CO[Si](C)(C)C(C)(C)C)/C=C/C(=O)OC)CC1=C(C=CC=C1)Cl | C25H37ClN2O3Si
